US06482829B2
1-Benzyl-8-(3,5-bis-trifluoromethyl-benzoyl)-3-methyl-1,3,8-triaza-spiro[4.5]decan-4-one
The title compound, MS: m/e=500.3 (M+H+), was prepared in accordance with the general method of example 71 from 1-benzyl-8-(3,5-bis-trifluoromethyl-benzoyl)-1,3,8-triaza-spiro[4.5]decan-4-one and methyliodide.

reactant | 1-benzyl-8-(3,5-bis-trifluoromethyl-benzoyl)-1,3,8-triaza-spiro[4.5]decan-4-one | C(C1=CC=CC=C1)N1CNC(C12CCN(CC2)C(C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)=O | C23H21F6N3O2
reactant | methyliodide | CI | CH3I
product | 1-Benzyl-8-(3,5-bis-trifluoromethyl-benzoyl)-3-methyl-1,3,8-triaza-spiro[4.5]decan-4-one | C(C1=CC=CC=C1)N1CN(C(C12CCN(CC2)C(C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)=O)C | C24H23F6N3O2
